US07378420B2
D. Synthesis of N-Benzhydryl-4-(1-(phenyl)-1-(1-methylpiperidin-4-yl)ethyl)piperazine-1-carboxamide
To a solution of 1-[1-(1-methylpiperidin-4-yl)-1-phenylethyl]piperazine 0.1 g (0.348 mmol) dissolved in methylene chloride (20 ml) was added diphenylmethyl isocyanate 0.073 g (0.348 mmol) and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was washed with saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated. The residue was applied to flash column chromatography using methylene chloride and methanol (100:10) as eluents to give 0.15 g of desired product in 87% yield.

reactant | 1-[1-(1-methylpiperidin-4-yl)-1-phenylethyl]piperazine | 0.348 mmol, 0.1 g | CN1CCC(CC1)C(C)(C1=CC=CC=C1)N1CCNCC1 | C18H29N3
reactant | diphenylmethyl isocyanate | 0.348 mmol, 0.073 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=O | C14H11NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-Benzhydryl-4-(1-(phenyl)-1-(1-methylpiperidin-4-yl)ethyl)piperazine-1-carboxamide | 0.15 g, 87% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1CCN(CC1)C(C)(C1CCN(CC1)C)C1=CC=CC=C1 | C32H40N4O
